US07442791B2
0.194 g (1.00 mmol) of trans-4-methylamino-cyclohexanecarboxylic acid•HCl were mixed with 2.62 mL (12.58 mmol, 12.6 eq) of hexamethyldisilazane and heated under reflux to 140° C. for 1 h (total time 1.5 h). The solution was evaporated, suspended in THF and treated with 0.245 g (1.00 mmol, 1 eq) of 4-(trifluoromethyl)-benzenesulfonyl chloride at 0° C. and stirred at RT overnight. 1 mL of water was added at RT followed by 2 mL of 1M NaOH. Stirring was continued for 1 h at RT after this aqueous 1M HCl was added. The solution was then partitioned between Et2O (×3)/H2O, dried over Na2SO4 and evaporated to yield 0.234 g (64%) of trans-4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexanecarboxylic acid, MS: 364 (M−H−).

reactant | trans-4-methylamino-cyclohexanecarboxylic acid•HCl | 1.00 mmol, 0.194 g | CN[C@@H]1CC[C@H](CC1)C(=O)O.Cl
reactant | hexamethyldisilazane | 12.58 mmol, 2.62 mL, 12.6 eq | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 4-(trifluoromethyl)-benzenesulfonyl chloride | 1.00 mmol, 0.245 g, 1 eq | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | NaOH | 1M, 2 mL | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | water | 1 mL | O | H2O
product | trans-4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexanecarboxylic acid | 0.234 g, 64% | CN([C@@H]1CC[C@H](CC1)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C15H18F3NO4S
